US04672117
Concentrated sulfuric acid (72 mL) was stirred and cooled to 0° C. in an ice-methanol bath. α-[(1H-indol-3-ylmethyl-amino)methyl]benzyl alcohol, 22.5 g (0.08 mol) was added in small portions to the stirred cooled sulfuric acid reaction mixture over 2 hours. The cooling bath was removed and the reaction was stirred at room temperature for 5 hours. Then the reaction mixture was poured onto crushed ice, basified with 50% aqueous sodium hydroxide solution (with ice cooling). Ethyl acetate was added and the basic mixture stirred well until two clear phases resulted. The aqueous phase was extracted several more times with ethyl acetate, the combined extracts washed with water and dried over anhydrous sodium sulfate. The extract after filtration was evaporated in vacuo and the residue dissolved in hot benzene, filtered hot and allowed to crystallize to obtain 10.0 g of 2,3,4,5-tetrahydro-4-phenyl-1H-pyrido[4,3-b]indole, m.p. 135°-155° C.

reactant | sulfuric acid | 72 mL | S(O)(O)(=O)=O | H2O4S
reactant | α-[(1H-indol-3-ylmethyl-amino)methyl]benzyl alcohol | N1C=C(C2=CC=CC=C12)CNCC(C1=CC=CC=C1)O | C17H18N2O
product | 2,3,4,5-tetrahydro-4-phenyl-1H-pyrido[4,3-b]indole | 10.0 g | C1(=CC=CC=C1)C1CNCC2=C1NC=1C=CC=CC21 | C17H16N2
